US07723367B2
2-benzylaminonicotinonitrile
Prepared in 66% yield from 2-fluoronicotinonitrile and benzylamine according to the procedure described for Example 178A. MS (ESI+) m/z 210.0 (M+H)+; 1H NMR (DMSO-d6) δ 4.59 (d, J=6.1 Hz, 2H), 6.64 (dd, J=7.6, 4.9 HZ, 1H), 7.16-7.24 (m, 1H), 7.26-7.32 (m, 5H), 7.71 (dd, J=5.9, 5.9 Hz, 1H), 7.91 (dd, J=7.6, 1.9 Hz, 1H), 8.23 (dd, J=4.9, 1.9 Hz, 1H).

reactant | 2-fluoronicotinonitrile | FC1=C(C#N)C=CC=N1 | C6H3FN2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 2-benzylaminonicotinonitrile | 66% yield | C(C1=CC=CC=C1)NC1=C(C#N)C=CC=N1 | C13H11N3
